US05137920
0.88 g of methyl 4-[(Z)-7-(dimethylamino)-1-heptenyl]benzoate was dissolved in 20 ml of ethanol, 20 mg of 5 percent palladium on carbon were added thereto and the suspension was stirred under hydrogen at normal pressure and room temperature for 2 hours. The reaction mixture was filtered through siliceous earth and the filtrate was evaporated. There was obtained 0.85 g (95%) of methyl 4-[7-(dimethylamino)heptyl]benzoate as a colourless oil.

reactant | methyl 4-[(Z)-7-(dimethylamino)-1-heptenyl]benzoate | 0.88 g | CN(CCCCC\C=C/C1=CC=C(C(=O)OC)C=C1)C | C17H25NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
product | methyl 4-[7-(dimethylamino)heptyl]benzoate | 0.85 g, 95% | CN(CCCCCCCC1=CC=C(C(=O)OC)C=C1)C | C17H27NO2
